US09428499B2
Step-a: Synthesis of 1-(3-Hydroxyazetidin-1-yl)-2-(3-nitrophenyl)ethanone
THF (30 mL) was added to a mixture of 2-(3-Nitrophenyl)acetic acid (0.5 g, 2.76 mmol), CDI (0.671 g, 4.14 mmol), the mixture was stirred for 2 hrs at 0° C. followed by addition of triethylamine (1.2154 ml, 8.28 mmol) and azetidin-3-ol hydrochloride (0.756 g, 6.90 mmol). The reaction mixture was stirred for 12 hrs at room temperature and then concentrated under vacuum. The crude residue was purified by column chromatography using 0-50% ethyl acetate in hexanes as eluent to afford the title product (0.51 g).

reactant | 2-(3-Nitrophenyl)acetic acid | 2.76 mmol, 0.5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | CDI | 4.14 mmol, 0.671 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | triethylamine | 8.28 mmol, 1.2154 ml | C(C)N(CC)CC | C6H15N
reactant | azetidin-3-ol hydrochloride | 6.90 mmol, 0.756 g | Cl.N1CC(C1)O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(3-Hydroxyazetidin-1-yl)-2-(3-nitrophenyl)ethanone | 0.51 g | OC1CN(C1)C(CC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H12N2O4
